US08748415B2
1-(3-(((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-9-(4-carboxyphenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-3a-yl)methylamino)propanoyl)piperidine-4-carboxylic acid
To a solution of 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((3-(4-(ethoxycarbonyl)piperidin-1-yl)-3-oxopropylamino)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid (16 mg, 0.021 mmol) in dioxane (1 ml) and methanol (2 ml) was added 1N sodium hydroxide (0.3 ml, 0.1 mmol) and H2O (0.5 ml). The resulting mixture was stirred at rt for 10 days. The reaction mixture was neutralized with 1N HCl and concentrated in vacuo. The crude product was purified by prep. HPLC to afford the title compound (8 mg). MS: m/e 727.6 (MH+), 1.69 min (method 2). 1H NMR (400 MHz, MeOD) δ ppm 0.95 (s, 3H) 0.97 (s, 3H) 1.04 (s, 3H) 1.08 (s, 3H) 1.17 (d, J=2.76 Hz, 3H) 1.73 (s, 3H) 0.87-1.86 (m, 23H) 1.92-2.10 (m, 3H) 2.15 (dd, J=17.32, 6.53 Hz, 1H) 2.47-2.56 (m, 1H) 2.57-2.67 (m, J=7.34, 7.12, 7.12, 3.76 Hz, 1H) 2.83-2.94 (m, 4H) 3.16-3.41 (m, 4H) 3.82-3.91 (m, 1H) 4.35-4.44 (m, 1H) 4.64 (s, 1H) 4.76 (d, J=1.51 Hz, 1H) 5.30 (d, J=5.27 Hz, 1H) 7.22 (d, J=8.28 Hz, 2H) 7.91 (d, J=8.28 Hz, 2H).

reactant | 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((3-(4-(ethoxycarbonyl)piperidin-1-yl)-3-oxopropylamino)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid | 0.021 mmol, 16 mg | C(C)OC(=O)C1CCN(CC1)C(CCNC[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)O)C=C1)C)[C@@H](CC2)C(=C)C)=O | C48H70N2O5
reactant | sodium hydroxide | 0.1 mmol, 1N, 0.3 ml | [OH-].[Na+]
reactant | H2O | 0.5 ml | O | H2O
reactant | HCl | 1N | Cl | ClH
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 2 ml | CO | CH4O
product | 1-(3-(((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-9-(4-carboxyphenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-3a-yl)methylamino)propanoyl)piperidine-4-carboxylic acid | 8 mg | C(=O)(O)C1=CC=C(C=C1)C=1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5([C@@H]([C@H]4CC[C@@H]3[C@]2(CC1)C)[C@@H](CC5)C(=C)C)CNCCC(=O)N5CCC(CC5)C(=O)O)C)C)(C)C | C46H66N2O5
